US06509328B1
{2′-Fluoro-3-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) (302 mg, 1.0 mmol) and 3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic acid butyl ester (Example H11) (345 mg, 1.2 mmol) according to the general procedure K. Obtained as a yellow amorphous substance (207 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 1.0 mmol, 302 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic acid butyl ester | 1.2 mmol, 345 mg | C(CCC)OC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O | C15H17N3O3
product | {2′-Fluoro-3-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O)=O | C28H26FN5O4
